US08008293B2
Synthesis of 2-[(2R,5S)-5-(3,4-difluorophenyl)pyrrolidine-2-yl]propan-2-ol
Under a nitrogen atmosphere and under ice-cooling, methyl magnesium bromide (20.7 mL, 0.97 M tetrahydrofuran solution) was added dropwise into a tetrahydrofuran (60 mL) solution of (2R,5S)-5-(3,4-difluorophenyl)pyrrolidine-1,2-dicarboxylic acid 1-t-butyl ester 2-ethyl ester (2.5 g). After stirring for 2 hours at the same temperature, ammonium chloride aqueous solution and ethyl acetate were added, and the organic layer was partitioned. The organic layer was washed with brine and dried with magnesium sulfate, and the solvent was removed under a vacuum. Ethyl acetate (7 mL) and 4 N hydrochloric acid/ethyl acetate (20 mL) were added to the residue, and stirring was continued for 1 hour at room temperature. The solvent was removed under a vacuum, and ethyl acetate and sodium bicarbonate aqueous solution were added, and the organic layer was partitioned. The organic layer was washed with brine and dried over anhydrous magnesium sulfate, and the solvent was removed under a vacuum, and the title compound (1.66 g) was obtained. The physical property values are as follows.

reactant | methyl magnesium bromide | 0.97 M, 20.7 mL | C[Mg]Br
reactant | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
reactant | (2R,5S)-5-(3,4-difluorophenyl)pyrrolidine-1,2-dicarboxylic acid 1-t-butyl ester 2-ethyl ester | 2.5 g | CCOC(=O)[C@@H]1N([C@@H](CC1)C1=CC(=C(C=C1)F)F)C(=O)OC(C)(C)C | C18H23F2NO4
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[(2R,5S)-5-(3,4-difluorophenyl)pyrrolidine-2-yl]propan-2-ol | 1.66 g | FC=1C=C(C=CC1F)[C@@H]1CC[C@@H](N1)C(C)(C)O | C13H17F2NO
